US04508724
3-[(2-Ethoxyphenoxy)methyl]-3-pyrrolidinol
A solution of 10.0 g (0.0305 mole) of 1-benzyl-3-(2-ethoxyphenoxy)methyl-3-pyrrolidinol in 125 ml of absolute ethanol was treated with Pd/C catalyst and warmed while shaking under a hydrogen atmosphere on a Parr hydrogenation apparatus for 16 hours. The catalyst was removed by filtration and the filtrate evaporated under reduced pressure. The white crystalline residue (7.1 g) was recrystallized from benzene isooctane to yield 6.6 g of product (91%), m.p. 108°-110° C.

reactant | 1-benzyl-3-(2-ethoxyphenoxy)methyl-3-pyrrolidinol | 0.0305 mole, 10.0 g | C(C1=CC=CC=C1)N1CC(CC1)(O)COC1=C(C=CC=C1)OCC | C20H25NO3
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3-[(2-Ethoxyphenoxy)methyl]-3-pyrrolidinol | 6.6 g, 91% | C(C)OC1=C(OCC2(CNCC2)O)C=CC=C1 | C13H19NO3
